US07294636B2
To a suspension of tert-butyl 4-(4-ethyl-2,5-dioxoimidazolidin-1-yl)piperidine-1-carboxylate (1.12 g) in dioxane (10 ml) was added a solution of 4M HCl in dioxane (10 ml) and the resulting mixture was stirred for 1 hour. Diethyl ether (20 ml) was added and the mixture was filtered and washed with diethyl ether to give 5-ethyl-3-piperidin-4-ylimidazolidine-2,4-dione. Yield 687 mg. MS 212 MH+

reactant | tert-butyl 4-(4-ethyl-2,5-dioxoimidazolidin-1-yl)piperidine-1-carboxylate | 1.12 g | C(C)C1NC(N(C1=O)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H25N3O4
reactant | HCl | 4M | Cl | ClH
reactant | Diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 5-ethyl-3-piperidin-4-ylimidazolidine-2,4-dione | C(C)C1C(N(C(N1)=O)C1CCNCC1)=O | C10H17N3O2
